US07723345B2
To 2,2,2-trifluoro-1-(3′-fluorobiphenyl-4-yl)ethanol (1.4 g, 5.18 mmol) in THF (50 mls) at 0° C. was added NaH (60% in mineral oil, 0.31 g, 7.77 mmol). The ice bath was removed and the mixture was stirred for 30 minutes. 2-Amino-4,6-dichloropyrimidine (1.0 g, 6.22 mmol) in THF (25 mls) was added at once. The mixture was heated to 50° C. for 5 hours. The reaction was complete by LCMS (Sunfire, TFA). The mixture was cooled, quenched with brine, and extracted 3 times with CH2Cl2. The organics were combined, washed with brine, dried over MgSO4, and concentrated. Chromatography (SiO2, CH2Cl2) afforded 1.48 g of 4-chloro-6-(2,2,2-trifluoro-1-(3′-fluorobiphenyl-4-yl)ethoxy)pyrimidin-2-amine. Yield 73%.

reactant | 2,2,2-trifluoro-1-(3′-fluorobiphenyl-4-yl)ethanol | 5.18 mmol, 1.4 g | FC(C(O)C1=CC=C(C=C1)C1=CC(=CC=C1)F)(F)F | C14H10F4O
reactant | NaH | 7.77 mmol, 0.31 g | [H-].[Na+]
reactant | 2-Amino-4,6-dichloropyrimidine | 6.22 mmol, 1.0 g | NC1=NC(=CC(=N1)Cl)Cl | C4H3Cl2N3
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | THF | 50 mls | C1CCOC1 | C4H8O
solvent | THF | 25 mls | C1CCOC1 | C4H8O
product | 4-chloro-6-(2,2,2-trifluoro-1-(3′-fluorobiphenyl-4-yl)ethoxy)pyrimidin-2-amine | 1.48 g, Yield 73% | ClC1=NC(=NC(=C1)OC(C(F)(F)F)C1=CC=C(C=C1)C1=CC(=CC=C1)F)N | C18H12ClF4N3O
